US04596893
To a 1000 cm3 flask equipped with a stirrer, dropping funnel, reflux and thermometer 300 g /0.75 mole/ of a 10% by weight NaOH solution are added 81.3 g /0.3 mole/ of 2-chloro-3,5-dinitro-benzotrifluoride of a purity of 95% are added under stirring. The temperature is raised to 60° C. and the reaction mixture is stirred at 60°-65° C. for 4 hours, while the aqueous suspension forms an emulsion. The reaction mixture is then cooled to room temperature /20°-25° C./ under stirring and within 1 hour a 37% hydrochloric acid solution corresponding to 0.82 mole HCl is added in equal portions under vigorous stirring. The precipitated product is filtered, washed with water and dried to constant weight at room temperature. 2-Trifluoromethyl-4,6-dinitro-phenol is obtained /68.1 g., purity: 94%/ Idenfication was carried out by a mass spectrometer connected to a gas chromatograph.

reactant | NaOH | [OH-].[Na+]
reactant | 2-chloro-3,5-dinitro-benzotrifluoride | ClC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F | C7H2ClF3N2O4
reactant | hydrochloric acid | Cl | ClH
reactant | HCl | 0.82 mole | Cl | ClH
product | 2-Trifluoromethyl-4,6-dinitro-phenol | Yield: 90% | FC(C1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])O)(F)F | C7H3F3N2O5
